US04464391
(c) (αRS)-Cyano-3-benzoylbenzyl alcohol
3-Benzoylbenzaldehyde (1.0 g) in dioxan (5 ml) was treated with water (2.5 ml) and sodium cyanide (0.5 g). The whole was cooled below 15° C. and 40% sulphuric acid (1.4 ml) added dropwise (care being taken to ensure that this temperature was not exceeded). Stirring was continued for 1 hour when water (30 ml) was added and the product extracted with methylene chloride and washed with water, saturated NaCl, dried over Na2SO4 and evaporated.

reactant | 3-Benzoylbenzaldehyde | 1.0 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=O)C=CC1 | C14H10O2
reactant | water | 2.5 ml | O | H2O
reactant | sodium cyanide | 0.5 g | [C-]#N.[Na+]
reactant | sulphuric acid | 1.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 30 ml | O | H2O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | (αRS)-Cyano-3-benzoylbenzyl alcohol | C(#N)C(C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)O | C15H11NO2
